datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:11])[H:10],94.6839
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([S:15][H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:16])([H:17])[H:18])([S:15][H:20])[H:19],7.9496
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[C:19]([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])[H:7].[H:8][C:19]([H:20])([H:21])[H:22],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([H:16])([H:17])[H:18])([O:5][O:6][H:19])[H:15])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:16])([H:17])[H:18])([O:5][O:6][H:19])[H:15])([H:13])[H:14])[O:7][O:8][H:12])([H:9])([H:10])[H:11],73.22
[C:0]([C:1]([C:2](=[O:3])[C:4]([C:5]([O:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2](=[O:3])[C:4]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],46.35872
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]=[S:15])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:16])([H:17])[H:18])=[S:15],25.9408
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[O:14][O:15]>>[C:0](=[C:1]([C:2]([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[H:8][O:14][O:15],199.11656
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:8]([H:21])([H:22])[H:23])[C:7]1([H:19])[H:20])[H:11])([H:9])[H:10],66.149
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8](=[C:9]([H:13])[H:14])[C:10]([H:15])([H:16])[H:17])([H:11])[H:12]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:7]([C:8](=[C:9]([H:13])[H:14])[C:10]([H:15])([H:16])[H:17])([H:11])[H:12],41.4216
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]([S:2])([H:6])[C:8]([C:7]([H:10])([H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13])([H:3])([H:4])[H:5],-5.10448
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])([H:5])[H:6],45.6893
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([C:12]([H:20])([H:21])[H:22])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:16])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12]([H:20])([H:21])[H:22])([H:13])([H:14])[H:15],74.266
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[S:12][H:13]>>[C:0](=[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])[H:5].[H:6][S:12][H:13],36.5
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[Cl:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][Cl:14],3.42972
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:9])[H:8])[H:7])([H:5])[H:6].[H:10]>>[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:9])[H:8])[H:7])([H:5])([H:6])[H:10],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13](=[C:14]([H:19])[H:20])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:17])[H:6].[C:11](=[C:12][C:13](=[C:14]([H:19])[H:20])[H:18])([H:15])[H:16],110.458
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:10])([H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],23.8488
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:16]([C:15](=[C:14]([H:18])[H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:8])([H:6])[H:7],59.5383
